US06668527B2
B. 2-(2,6-Dichloro-benzoylamino)-3-[3-(1-{2-[3-methoxy-4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-3-methyl-butyl)-isoxazol-5-yl]-propionic acid methyl ester
The title compound was prepared in the manner described in example 2B using 3-methoxy-4-(3-o-tolyl-ureido)-phenylacetic acid and 3-[3-(1-amino-3-methyl-butyl)-isoxazol-5-yl]-2-(2,6-dichloro-benzoylamino)-propionic acid methyl ester hydrochloride. 51% yield; white solid. MS (m/z) 724.2 and 726.2 (M+1).

reactant | 3-methoxy-4-(3-o-tolyl-ureido)-phenylacetic acid | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | 3-[3-(1-amino-3-methyl-butyl)-isoxazol-5-yl]-2-(2,6-dichloro-benzoylamino)-propionic acid methyl ester hydrochloride | Cl.COC(C(CC1=CC(=NO1)C(CC(C)C)N)NC(C1=C(C=CC=C1Cl)Cl)=O)=O
product | 2-(2,6-Dichloro-benzoylamino)-3-[3-(1-{2-[3-methoxy-4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-3-methyl-butyl)-isoxazol-5-yl]-propionic acid methyl ester | 51% yield | COC(C(CC1=CC(=NO1)C(CC(C)C)NC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C36H39Cl2N5O7
